US08022222B2
Step C: Preparation of 3-hydroxyisonicotinonitrile:
A flask was charged with 3-(2-(trimethylsilyl)ethoxy)isonicotinonitrile (1.30 g, 5.90 mmol), THF (5 mL) and N,N-dibutyl-N-propylbutan-1-aminium fluoride (11.8 ml, 11.8 mmol) in THF was added. The reaction mixture was stirred at ambient temperature for 1 hour and then concentrated. The crude product was purified by silica gel chromatography, eluting with DCM and 5% methanol in DCM to give the desired product (0.7 g, 99% yield) as dark brown oil.

reactant | 3-(2-(trimethylsilyl)ethoxy)isonicotinonitrile | 5.90 mmol, 1.30 g | C[Si](CCOC1=C(C#N)C=CN=C1)(C)C | C11H16N2OSi
reactant | N,N-dibutyl-N-propylbutan-1-aminium fluoride | 11.8 mmol, 11.8 ml | [F-].C(CCC)[N+](CCCC)(CCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-hydroxyisonicotinonitrile | 0.7 g, 99% yield | OC1=C(C#N)C=CN=C1 | C6H4N2O
